US20010047031A1
(RS)-4-[1-(2-Benzyloxy-ethyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=362.2 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and benzyloxyacetaldehyde.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | benzyloxyacetaldehyde | C(C1=CC=CC=C1)OCC=O | C9H10O2
product | (RS)-4-[1-(2-Benzyloxy-ethyl)-pyrrolidine-3-sulfonyl]-phenol | C(C1=CC=CC=C1)OCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C19H23NO4S
